US07211573B2
c) (2,2,3,3,3-Pentafluoro-propyl)-carbamic acid (S)-1-((6R,7S)-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-ylcarbamoyl)-ethyl ester
A mixture of 60 mg (0.14 mmol) of carbonic acid (S)-1-((6R,7S)-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-ylcarbamoyl)-ethyl ester 4-nitro-phenyl ester and 0.304 ml (2.8 mmol) of 2,2,3,3,3-pentafluoropropylamine was stirred at room temperature overnight. The mixture was purified by flash-chromatography on silica gel using an ascending gradient of ethyl acetate in heptane as the eluent to yield 60 mg (98% of theory) of the title compound as a white solid, MS m/e (%): 440.3 (M+H+, 100).

reactant | carbonic acid (S)-1-((6R,7S)-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-ylcarbamoyl)-ethyl ester 4-nitro-phenyl ester | 0.14 mmol, 60 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(O[C@@H](C)C(N[C@H]1[C@H](OC2=C(NC1=O)C=CC=C2)C)=O)=O | C20H19N3O8
reactant | 2,2,3,3,3-pentafluoropropylamine | 2.8 mmol, 0.304 ml | FC(CN)(C(F)(F)F)F | C3H4F5N
product | (2,2,3,3,3-Pentafluoro-propyl)-carbamic acid (S)-1-((6R,7S)-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-ylcarbamoyl)-ethyl ester | C[C@H]1OC2=C(NC([C@H]1NC(=O)[C@H](C)OC(NCC(C(F)(F)F)(F)F)=O)=O)C=CC=C2 | C17H18F5N3O5
